US05952362
3. Preparation of 4-chloro-2-methyl-3-nitroaniline
A mixture of 3-chloro-2,6-dinitrotoluene (18.0 g), cyclohexene (51 mL), and 10% palladium on charcoal (4.5 g) in ethanol (350 mL) was heated at reflux under an atmosphere of nitrogen for 1.5 hr. The reaction mixture was cooled to room temperature, filtered through celite, then evaporated under reduced pressure. The residue was dissolved in ethyl ether and filtered through a short silica column. Evaporation of the ether afforded 14.8 g as an orange solid.

reactant | 3-chloro-2,6-dinitrotoluene | 18.0 g | ClC=1C(=C(C(=CC1)[N+](=O)[O-])C)[N+](=O)[O-] | C7H5ClN2O4
reactant | cyclohexene | 51 mL | C1=CCCCC1 | C6H10
catalyst | palladium on charcoal | 4.5 g | [Pd] | Pd
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 4-chloro-2-methyl-3-nitroaniline | ClC1=C(C(=C(N)C=C1)C)[N+](=O)[O-] | C7H7ClN2O2
